US06677453B1
Preparation of Finasteride-lithium Bromide Complex
Into a 100 ml r.b. flask equipped with a magnetic stirrer and a nitrogen inert atmosphere was weighted 3.71 gm of finasteride. Methylene chloride (20 ml) was added and the slurry astirred to dissolve the substrate. To the clear light yellow solution was added 0.87 g of anhydrous lithium bromide. The solid was washed down into the reaction with 5 ml of methylene chloride. The slurry was stirred. Within one minute add 1 drop of n-propanol from a disposable pipette. The slurry was stirred overnight with exclusion of moisture under an inert nitrogen atmosphere. The slurry is filtered on a Buchner funnel and the flask and solid washed with 10 ml of methylene chloride. After drying the solid at 50° C. in vacuum the solid complex weighs 4.17 g. The methylene chloride solution contains 0.35 g of nonvolatile residue.

reactant | finasteride | 3.71 gm | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2C(=O)NC(C)(C)C)CC[C@@H]4[C@@]3(C=CC(=O)N4)C | C23H36N2O2
reactant | lithium bromide | 0.87 g | [Br-].[Li+]
solvent | Methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Finasteride lithium Bromide | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2C(=O)NC(C)(C)C)CC[C@@H]4[C@@]3(C=CC(=O)N4)C.[Br-].[Li+] | InChI=1S/C23H36N2O2.BrH.Li/c1-21(2,3)25-20(27)17-8-7-15-14-6-9-18-23(5,13-11-19(26)24-18)16(14)10-12-22(15,17)4;;/h11,13-18H,6-10,12H2,1-5H3,(H,24,26)(H,25,27);1H;/q;;+1/p-1/t14-,15-,16-,17+,18+,22-,23+;;/m0../s1
